US09062078B2
Step A: 6-amino-3-methylpicolinic acid.
To methyl 6-amino-3-bromopicolinate (500 mg, 2.2 mmol), tetramethylstannane (900 μL, 6.5 mmol) and LiCl (354 mg, 8.7 mmol) in DMF (6 mL) was added Pd(PPh3)4 (76 mg, 10 mol %). The reaction mixture was heated at 110° C. for 3 h. Additional tetramethylstannane, LiCl and Pd(PPh3)4 were added and heating continued for 6 h. Purification via silica gel chromatography (0-20% MeOH in DCM) gave the title compound.

reactant | methyl 6-amino-3-bromopicolinate | 2.2 mmol, 500 mg | NC1=CC=C(C(=N1)C(=O)OC)Br | C7H7BrN2O2
reactant | tetramethylstannane | 6.5 mmol, 900 μL | C[Sn](C)(C)C
reactant | LiCl | 8.7 mmol, 354 mg | [Li+].[Cl-]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-amino-3-methylpicolinic acid | NC1=CC=C(C(=N1)C(=O)O)C | C7H8N2O2
